US06630281B2
Synthesis of Poly(bicyclo[2.2.1]hept-5-ene-2-carboxylic acid/maleic anhydride)
To 70 ml of tetrahydrofuran was added 0.2 M of bicyclo[2.2.1]hept-5-ene-2-carboxylic acid, 0.2 M of maleic anhydride and 0.4 g of AIBN. The resulting solution was reacted at 67° C. for 8 hours. Thereafter, a polymer was precipitated and filtered in petroleum ether/ether (1/1) solution, to obtain the title polymer. Here, the polymer was washed with aqueous Na2CO3 solution (5%), and re-washed with distilled water to completely remove base. The resulting resin was vacuum-dried to obtain a pure resin (yield: 64%).

reactant | bicyclo[2.2.1]hept-5-ene-2-carboxylic acid | 0.2 M | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
reactant | maleic anhydride | 0.2 M | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | AIBN | 0.4 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | bicyclo[2.2.1]hept-5-ene-2-carboxylic acid maleic anhydride | C12C(CC(C=C1)C2)C(=O)O.C1(\C=C/C(=O)O1)=O | InChI=1S/C8H10O2.C4H2O3/c9-8(10)7-4-5-1-2-6(7)3-5;5-3-1-2-4(6)7-3/h1-2,5-7H,3-4H2,(H,9,10);1-2H
